US06881844B2
A solution of 6-methyl-1H-indole (1.0 g, 7.62 mmol) in tetrahydrofuran (10 mL) cooled to 0° C. was treated with trifluoroacetic anhydride (1.62 mL, 11.43 mmol). The reaction was stirred at 0° C. for 1 h. At this time, the resulting precipitate was collected by filtration, washed with water, and dried in vacuo to afford 2,2,2-trifluoro-1-(6-methyl-1H-indol-3-yl)-ethanone (146 mg, 8%) as a white solid: mp 216-218° C.; EI-HRMS m/e calcd for C11H8F3NO (M+) 227.0558, found 227.0554.

reactant | 6-methyl-1H-indole | 7.62 mmol, 1.0 g | CC1=CC=C2C=CNC2=C1 | C9H9N
reactant | trifluoroacetic anhydride | 11.43 mmol, 1.62 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-1-(6-methyl-1H-indol-3-yl)-ethanone | 146 mg, 8% | FC(C(=O)C1=CNC2=CC(=CC=C12)C)(F)F | C11H8F3NO
